Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:8]/[O:9][H:10].[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9][H:10],-3.0488895192000003
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.50315224244
[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.65638617648
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1],2.74190675203
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:4],1.89954088112
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2],6.31058758717
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[C:1]#[C:2][C:3][C:9]([H:6])[H:10].[C:4]([H:5])#[C:7][H:8],-0.72729862714
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11],4.9563767857
[C:1]=[C:2]([C:3](=[C:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([C:3][O:6][H:7])[C:8]([H:9])([H:10])[H:11].[C:4][H:5],6.967100118080001
[H:11].[H:1][C:2]([H:3])([C:4]#[C:5][C:6][C:8]([H:9])[H:10])[H:7]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-3.98526312031
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-7.17879479705
[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7],-3.41494786847
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]([C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.4044650907499998
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:16].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14][H:15],4.96267749936
[H:1][C:2]([H:3])=[C:4][O:9][C:6]([C:5])([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4]1[C:5][C:6]([H:7])([H:8])[O:9]1,-3.4017482254400004
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.8287730977
[H:1][C:2]1[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9]1>>[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9],-1.56974946632
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])[H:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.72513943775
[H:13].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.54334762694
[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])[H:8]>>[H:1][C:2][C:3][C:4]#[C:5][C:6][H:7].[H:8],4.98466674352
[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])[H:9])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.5170547376
[C:2]#[C:3][C@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10],-5.90903876186
[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9].[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.20918681509
[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-6.027590275850001
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1],4.26654687413
[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.85202263414
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],0.92666634554
[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-2.07495626526
[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8],3.8599592591900014
[H:6].[O:1]=[C:2]=[C:3][O:4][C:5]#[C:7][H:8]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])=[C:7][H:8],-2.53634962693
